US06703391B2
2,3-Dihydro-2-methyl-1H-isoindol-4-amine
A 5-L flask was set up with an overhead stirrer, temperature probe, and 500-mL addition funnel. The flask was charged with lithium aluminum hydride (100 g) and anhydrous tetrahydrofuran (1.5 L). The resulting suspension was treated with 4-amino-2-methyl-1H-isoindole-1,3(2H)-dione (100 g, 0.56 mol) at a rate such that the reaction did not become too vigorous. The resulting suspension was heated at reflux for 18 hours. The reaction vessel was cooled, placed in an ice bath, and cautiously quenched with 100 mL water, 100 mL 1N NaOH, and 300 mL water. The resulting suspension was treated with chloroform (1.5 L) and the pH of the suspension adjusted to 12 with 50% aqueous sodium hydroxide solution. The resulting suspension was treated with acetic anhydride (300 mL) while maintaining the pH at approximately 12. The reaction mixture was treated with sodium sulfate (800 g) and potassium carbonate (200 g), and the reaction mixture was filtered. The filter cake was washed with additional chloroform, and the combined filtrates were concentrated. The residue was crystallized from ethyl acetate to give 71 g (66%) of the desired product, mp 157° C.

reactant | lithium aluminum hydride | 100 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-amino-2-methyl-1H-isoindole-1,3(2H)-dione | 0.56 mol, 100 g | NC1=C2C(N(C(C2=CC=C1)=O)C)=O | C9H8N2O2
solvent | tetrahydrofuran | 1.5 L | O1CCCC1 | C4H8O
product | 2,3-Dihydro-2-methyl-1H-isoindol-4-amine | 71 g, 66% | CN1CC=2C=CC=C(C2C1)N | C9H12N2
